Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
latex / shrimp
 
Attending: ___
 
Chief Complaint:
vertigo, difficulty with vision
 
Major Surgical or Invasive Procedure:
Conventional angiogram

 
History of Present Illness:
___ y/o F with PMH significant for HTN, ___ transferred from
___ with new findings of an ACOMM aneurysm and
basilar tip aneurysm. The patient's symptoms started a couple of
weeks ago while she was in ___ where she suffered acute
nausea, vomiting, visual disturbances and headache. She assumed
she was suffering from flu-like symptoms. She also suffered
visual disturbances and was evaluated by her ophthalmologist 
upon
her return to home. She was then evaluated by her PCP who 
ordered
___ CT of the head which revealed the subacute ischemic stroke
within the right occipital lobe. She was sent to ___ with these findings. Neurology was
consulted in the ED and recommended work up to rule out brain
mass in setting of history of Breast cancer however patient
cannot have MRI due to left breast tissue expander. CTA head and
neck today demonstrated two aneurysms (basilar tip and ACOMM) 
and
she was transferred to ___ for ongoing care. Contrasted CT did
not show hyperattenuating mass making metastatic disease less
likely. Home antihypertensives were held on admission to allow
for permissive HTN in setting of stroke. She was transferred to
the Neurosurgery service at ___ for further evaluation. 

The patient denies headache, blurred vision, diplopia, slurred
speech, nausea, vomiting, paresthesias of the extremities, and
weakness of the extremities. She endorses visual field cuts 
which
have been present for a couple of weeks. 

 
Past Medical History:
PMHx:
Recent Right occipital stroke discovered after pt developed
visual field deficit
HTN
HLD
Prediabetes
DCIS left breast on Anastrozole
s/p left mastectomy with Tissue expander in place - not
compatible with MRI
 
Social History:
___
Family History:
Family Hx: Father deceased from a stroke years ago. 

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
T: 98.4  BP: 160/76  HR: 84    RR: 23   O2Sats 94% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 3-2mm bilaterally. EOMs intact throughout. 
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 3mm to
2mm bilaterally. Visual fields with left homonymous hemianopia. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

Sensation: Intact to light touch in all four extremities
bilaterally.

PHYSICAL EXAMINATION ON DISCHARGE:
Vitals: 24 HR Data (last updated ___ @ 430)
    Temp: 98.2 (Tm 98.6), BP: 155/75 (140-195/70-95), HR: 67
(62-78), RR: 16 (___), O2 sat: 95% (94-100), O2 delivery: Ra  
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands.  There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. On visual field testing, there is a 
subtle left inferior quadrantopia to finger counting and 
wiggling- improving
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___    5    5    5      5
R  5    ___    ___    5    5    5      5 

-Sensory: No deficits to gross touch throughout. No extinction 
to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2+ 2+  2+    2+  2
R  2+ 2+  2+    2+  2
Plantar response was withdrawal bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

 
Pertinent Results:
___ 05:37PM BLOOD WBC-20.6* RBC-4.31 Hgb-12.5 Hct-39.0 
MCV-91 MCH-29.0 MCHC-32.1 RDW-13.2 RDWSD-43.5 Plt ___
___ 06:42AM BLOOD WBC-9.9 RBC-4.23 Hgb-12.1 Hct-38.6 MCV-91 
MCH-28.6 MCHC-31.3* RDW-13.4 RDWSD-44.2 Plt ___
___ 05:10AM BLOOD WBC-9.9 RBC-3.98 Hgb-11.5 Hct-36.5 MCV-92 
MCH-28.9 MCHC-31.5* RDW-13.4 RDWSD-45.2 Plt ___
___ 05:37PM BLOOD ___ PTT-23.1* ___
___ 05:10AM BLOOD ___ PTT-27.6 ___
___ 05:37PM BLOOD Glucose-198* UreaN-19 Creat-1.2* Na-142 
K-3.8 Cl-106 HCO3-24 AnGap-12
___ 05:10AM BLOOD Glucose-100 UreaN-18 Creat-1.1 Na-144 
K-4.0 Cl-104 HCO3-26 AnGap-14
___ 05:37PM BLOOD Calcium-9.3 Phos-2.9 Mg-1.6
___ 05:10AM BLOOD Calcium-9.2 Phos-4.0 Mg-1.7
___ 06:21AM BLOOD %HbA1c-6.1* eAG-128*
___ 06:21AM BLOOD Triglyc-127 HDL-61 CHOL/HD-3.1 
LDLcalc-105
___ 05:10AM BLOOD TSH-1.6

IMAGING:
CAROTID/CEREBRAL ANGIOGRAM IMPRESSION:  
Irregular daughter sac of the anterior communicating artery 
complex with a 
small bilobed aneurysm measuring 2mm X 1 mm. 
Dilatation of the basilar apex at the origin of the bilateral 
posterior 
cerebral arteries and bilateral superior cerebellar arteries 
RECOMMENDATION(S): 
1. No intervention required for Acom aneurysm as it is very 
small. 

LOWER EXTREMITY DOPPLER IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

TTE IMPRESSION: 
Suboptimal image quality. Mild symmetric left ventricular 
hypertrophy with normal cavity size and global biventricular 
systolic function.
 
Brief Hospital Course:
___ year old woman with PMH HTN and HLD who presented with a 
remote episode of prolonged vomiting and vertigo, followed by 
persistent left-sided visual loss and found to have a R 
occipital infarct.

#Right occipital infarct
Her exam is notable only for a mild L visual field cut. Etiology 
for this PCA infarct is unclear at this time. Risk factor labs 
show HbA1c 6.1 and LDL of 105 but the size of infarct is not 
likely due to small vessel disease. No evidence of atrial 
fibrillation on this admission; TSH 1.6. TTE was grossly normal 
and there was no evidence of PFO or ASD. The history of 
dizziness and vomiting leading to visual deficits could be 
consistent with a thrombus which migrated up the basilar. Given 
the basilar tip aneurysm, this could in theory lead to 
mechanical compression of the PCA leading to infarct. She was 
started on ASA 81mg and atorvastatin 40mg (switched from 
pravastatin 80mg) daily for secondary prevention. Discharged 
with ziopatch to look for evidence of arrhythmia. She may not 
drive a vehicle.

#Aneurysm
Found to have 5mm fusiform aneurysm in the basilar tip and an 
ACOMM aneurysm. Had conventional angiogram by neurosurgery who 
did not perform any interventions or recommend interventions at 
this time. Follow-up in two weeks as an outpatient.

#HTN
SBP off home medications was consistently in 180s. Once 
restarted on home lisinopril 10mg and atenolol 50 mg daily, SBP 
improved to 150s. Increased lisinopril to 20mg daily upon 
discharge. Will need consistent follow-up with PCP.

#HLD
Switched from pravastatin 80mg to atorvastatin 40mg.

#Pre-diabetes
HbA1c 6.1. Not started on any therapies. Can be followed 
outpatient.

Transitional Issues:
-Monitor HTN closely by PCP
-___ results of ziopatch and TTE
-Follow-up with stroke neurology in 3 months
-Follow-up with neurosurgery in 2 weeks

==========
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 105) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Medications on Admission:
Medications prior to admission:
Tylenol PRN
Anastrozole 1mg daily
MVI daily
Pravastatin 80mg,
Atenolol 50mg daily (stopped on admission to OSH)
lisinopril 10mg daily (stopped on admission to OSH)
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
4.  Anastrozole 1 mg PO DAILY  
5.  Atenolol 50 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
ACOMM and basilar aneurysms

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

You were hospitalized due to symptoms of dizziness, vomiting, 
and difficulty seeing resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. 

Your risk factors are:  
 HIGH BLOOD PRESSURE
 HIGH CHOLESTEROL
 PRE-DIABETES
 
We are changing your medications as follows:  
 STOP pravastatin and START atorvastatin 
 START aspirin
 INCREASE lisinopril to 20mg daily

Please take your other medications as prescribed.  

Due to the visual loss on the left side, you may NOT drive a 
vehicle.

We will follow-up with you on the results of your heart monitor.

Please follow up with Neurology, Neurosurgery and your primary 
care physician as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___